US04973699
A solution of benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (0.69 g), anisole (0.69 ml), and trifluoroacetic acid (2.07 ml) in methylene chloride (1.38 ml) was stirred under ice-cooling for 40 minutes. The mixture was poured into diisopropyl ether to give a precipitate. The precipitate was dissolved into a mixture of water (30 ml) and ethyl acetate (15 ml) and the solution was adjusted to pH 7.1 with saturated aqueous solution of sodium bicarbonate. The aqueous layer was separated and adjusted to pH 5.6 with 1N hydrochloric acid. The solution was subjected to column chromatography on a non-ionic adsorption resin "Diaion HP-20" (12 ml). After the column was washed with water, the elution was carried out with 20% isopropyl alcohol. The fractions containing the object compound were combined, concentrated in vacuo to about 20 ml and lyophylized to give sodium 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (0.30 g).

reactant | benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 0.69 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC1CC1 | C36H32N6O5S3
reactant | anisole | 0.69 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 2.07 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 1.38 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
product | sodium 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 0.30 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)[O-])C1=O)=NOC1CC1.[Na+] | InChI=1S/C23H22N6O5S3.Na/c24-23-26-15(11-37-23)16(28-34-14-3-4-14)19(30)27-17-20(31)29-18(22(32)33)13(10-36-21(17)29)9-35-7-5-12-2-1-6-25-8-12;/h1-2,5-8,11,14,17,21H,3-4,9-10H2,(H2,24,26)(H,27,30)(H,32,33);/q;+1/p-1/b7-5-,28-16?;/t17-,21-;/m1./s1
